* G:\Freelancing Career\Fiver Projects\PROJECT36_CHRIS_SAM\power_supply.asc
V1 N001 N007 SINE(0 170 60)
L1 N001 N007 1m Rser=1
LS1 0 N002 70µ
LS2 N003 0 70µ
D1 -15V N002 1N4002
D2 N002 +15V 1N4002
D3 -15V N003 1N4002
D4 N003 +15V 1N4002
C1 +15V N004 1000µF
C2 N004 -15V 1000µF
C3 +15V N005 10µF
C4 N005 -15V 10µF
C5 +15V N006 0.1µF
C6 N006 -15V 0.1µF
.model D D
.lib C:\Users\Tanveer Husain\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 100m
K. L1 LS1 LS2 1
.model 1N4002 D (Is=14.11n N=1.984 Rs=33.89E-3 Ikf=94.81 Xti=3 Eg=1.110 Cjo=51.17E-12 M=.2762 Vj=.3905 Fc=.5 Isr=100.0E-12 Nr=2 Bv=100.1 Ibv=10 Tt=4.761E-6 Iave=1 Vpk=100 mfg=GI type=silicon)
.probe tran V(003)
.backanno
.end
